Title :transient experiment : rise,fall,delay,period,etc.
** RC Network
R1      vin     vout    1k
C1      vout    GND     1p


** Stimuli
Vsin    vin     GND     0 PULSE(0 5 1n 1p 1p 10n 20n)



** Rise/Fall 10-90%
.MEASURE TRAN tr1090 TRIG v(vout) VAL=0.5 RISE=1 TARG v(vout) VAL=4.5 RISE=1
.MEASURE TRAN tf9010 TRIG v(vout) VAL=4.5 FALL=1 TARG v(vout) VAL=0.5 FALL=1
** Rise/Fall 20-80%
.MEASURE TRAN tr2080 TRIG v(vout) VAL=1.0 RISE=1 TARG v(vout) VAL=4.0 RISE=1
.MEASURE TRAN tf8020 TRIG v(vout) VAL=4.0 FALL=1 TARG v(vout) VAL=1.0 FALL=1
** Delay Rise Fall
.MEASURE TRAN tdrise TRIG v(vout) VAL=2.5 RISE=1 TARG v(vout) VAL=2.5 RISE=1
.MEASURE TRAN tdfall TRIG v(vout) VAL=2.5 FALL=1 TARG v(vout) VAL=2.5 FALL=1
** Pulse width/Period
.MEASURE TRAN PWidth TRIG v(vout) VAL=2.5 RISE=1 TARG v(vout) VAL=2.5 FALL=1
.MEASURE TRAN Period TRIG v(vout) VAL=2.5 RISE=1 TARG v(vout) VAL=2.5 RISE=2
.CONTROL
OP
TRAN 10p 40n

.ENDC





.GLOBAL GND
